US09108966B2
TFA (0.30 mL) was added to a mixture of sodium (2S,5R)-2-(5-(((tert-butoxycarbonyl)amino)methyl)-1,3,4-thiadiazol-2-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octan-6-yl sulfate (50 mg) in dry DCM (0.80 mL) at 0° C. The reaction mixture was stirred at 0° C. for 2-3 hrs and then diluted with ether (˜15 mL). The precipitate was collected via centrifugation, washed with ether (3×) and dried under high vacuum to afford (2S,5R)-2-(5-(aminomethyl)-1,3,4-thiadiazol-2-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octan-6-yl hydrogen sulfate (30 mg) as TFA salt. ESI-MS (EI+, m/z): 336.1. 1H NMR (300 MHz, D2O) δ 4.97 (br d, J=6.2 Hz, 1H), 4.68 (s, 2H), 4.19 (br s, 1H), 3.21 (br d, J=13.5 Hz, 1H), 2.94 (d, J=12.2 Hz, 1H), 2.54-2.49 (m, 1H), 2.30-2.07 (m, 2H), 1.98-1.87 (m, 1H).

reactant | TFA | 0.30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium (2S,5R)-2-(5-(((tert-butoxycarbonyl)amino)methyl)-1,3,4-thiadiazol-2-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octan-6-yl sulfate | 50 mg | S(=O)(=O)(ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2SC(=NN2)CNC(=O)OC(C)(C)C)[O-].[Na+]
solvent | DCM | 0.80 mL | C(Cl)Cl | CH2Cl2
solvent | ether | ˜15 mL | CCOCC | C4H10O
product | (2S,5R)-2-(5-(aminomethyl)-1,3,4-thiadiazol-2-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octan-6-yl hydrogen sulfate | 30 mg | S(=O)(=O)(ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2SC(=NN2)CN)O | C9H13N5O5S2
